US06451842B1
To a mixture of (R)-3-[N-(3-(trifluoromethyl)benzoyl)glycyl]aminopyrrolidine (0.050 mmol), 4-butylbenzaldehyde (0.18 mmol), NaBH3CN (0.23 mmol), and methanol (1.85 mL) was added acetic acid (0.060 mL). The reaction mixture was stirred at 60° C. for 12 h. The mixture was cooled to room temperature, loaded onto Varian™ SCX column, and washed with CH3OH (15 mL) . Product was eluted off using 2 N NH3 in CH3OH (5 mL) and concentrated to afford (R)-1-(4-butylbenzyl)-3-[{N-(3-trifluoromethylbenzoyl)glycyl}amino]pyrrolidine (Compound No. 1648) (20.6 mg, 89%): The purity was determined by RPLC/MS (9%); ESI/MS m/e 462.2 (M++H, C25H30F3N3O2)

reactant | (R)-3-[N-(3-(trifluoromethyl)benzoyl)glycyl]aminopyrrolidine | 0.050 mmol | FC(C=1C=C(C(=O)NCC(=O)N[C@H]2CNCC2)C=CC1)(F)F | C14H16F3N3O2
reactant | 4-butylbenzaldehyde | 0.18 mmol | C(CCC)C1=CC=C(C=O)C=C1 | C11H14O
reactant | NaBH3CN | 0.23 mmol | [BH3-]C#N.[Na+]
reactant | methanol | 1.85 mL | CO | CH4O
solvent | acetic acid | 0.060 mL | C(C)(=O)O | C2H4O2
product | (R)-1-(4-butylbenzyl)-3-[{N-(3-trifluoromethylbenzoyl)glycyl}amino]pyrrolidine | C(CCC)C1=CC=C(CN2C[C@@H](CC2)NC(CNC(C2=CC(=CC=C2)C(F)(F)F)=O)=O)C=C1 | C25H30F3N3O2
